### PR TITLE
feat(Analysis/InnerProductSpace): define outer product of linear maps

### PR DESCRIPTION
**Pull request by IvanRenison**
Co-authored-by: themathqueen <23701951+themathqueen@users.noreply.github.com>
Co-authored-by: Jam Kabeer Ali Khan <jamkhan@connect.hku.hk>

---

I'm not completely sure if this is a good addition or not, and also, I was not sure if to call the definition `outerProduct` or only `outer`.

- [ ] depends on: #28350
- [ ] depends on: #28344

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 1]
```diff
@@ -0,0 +1,165 @@
...
+namespace LinearMap
+
+variable (𝕜 : Type*) {E F : Type*} [RCLike 𝕜]
+
+variable [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+variable [NormedAddCommGroup F] [InnerProductSpace 𝕜 F]
+
+/-- The outer product of two vectors -/
+def outerProduct (x : E) (y : F) : F →ₗ[𝕜] E where
+  toFun := fun z ↦ inner 𝕜 y z • x
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: isn't this literally `(innerSL 𝕜 y).smulRight x`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 2]
```diff
@@ -0,0 +1,165 @@
...
+  ext
+  simp [sub_apply, outerProduct_def, smul_sub]
+
+lemma outerProduct_sub_right (x : E) (y : F) (z : F) :
+    outerProduct 𝕜 x (y - z) = outerProduct 𝕜 x y - outerProduct 𝕜 x z := by
+  ext
+  simp [sub_apply, outerProduct_def, inner_sub_left, sub_smul]
+
+lemma outerProduct_assoc_right (x : E) (y : F) (z : F) :
+    (outerProduct 𝕜 x y) z = inner 𝕜 y z • x := rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: This is `outerProduct_def`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 3]
```diff
@@ -0,0 +1,165 @@
...
+
+lemma outerProduct_smul_assoc_left (c : 𝕜) (x : E) (y : F) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
lemma outerProduct_smul_left (c : 𝕜) (x : E) (y : F) :
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 4]
```diff
@@ -0,0 +1,165 @@
...
+    outerProduct 𝕜 (c • x) y = (c : 𝕜) • outerProduct 𝕜 x y := by
+  ext
+  simp only [smul_apply, outerProduct_def]
+  rw [smul_algebra_smul_comm]
+
+lemma outerProduct_smul_assoc_right (c : 𝕜) (x : E) (y : F) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
lemma outerProduct_smul_right (c : 𝕜) (x : E) (y : F) :
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 5]
```diff
@@ -0,0 +1,165 @@
...
+  symm
+  rw [eq_adjoint_iff]
+  intro v w
+  repeat rw [outerProduct_def]
+  rw [inner_smul_left, inner_conj_symm, inner_smul_right]
+  exact mul_comm _ _
+
+lemma star_outerProduct (x y : E) :
+    star (outerProduct 𝕜 x y) = outerProduct 𝕜 y x := by
+  rw [star_eq_adjoint, adjoint_outerProduct]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: unnecessary since you have `adjoint_outerProduct`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 6]
```diff
@@ -0,0 +1,165 @@
...
+variable {ι : Type*} [Fintype ι]
+
+lemma sum_outerProduct (f g : ι → E) (x : E) :
+    (∑ i, outerProduct 𝕜 (f i) (g i)) x = ∑ i, outerProduct 𝕜 (f i) (g i) x := by
+  simp only [sum_apply]
+
+variable {𝕜}
+
+lemma sum_outerProduct_OrthonormalBasis (b : OrthonormalBasis ι 𝕜 E) :
+    ∑i, outerProduct 𝕜 (b i) (b i) = 1 := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
    ∑ i, outerProduct 𝕜 (b i) (b i) = 1 := by
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 7]
```diff
@@ -0,0 +1,165 @@
...
+    (outerProduct 𝕜 x y + outerProduct 𝕜 y x).IsSymmetric :=
+  (outerProduct 𝕜 x y + outerProduct 𝕜 y x).isSymmetric_iff_isSelfAdjoint.mpr
+    (isSelfAdjoint_outerProduct_add 𝕜 x y)
+
+omit [FiniteDimensional 𝕜 E] [FiniteDimensional 𝕜 F]
+variable {ι : Type*} [Fintype ι]
+
+lemma sum_outerProduct (f g : ι → E) (x : E) :
+    (∑ i, outerProduct 𝕜 (f i) (g i)) x = ∑ i, outerProduct 𝕜 (f i) (g i) x := by
+  simp only [sum_apply]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: this is just `sum_apply`

**Review by themathqueen — COMMENTED** [review]
I don't like the name `outerProduct` to be used for this (isn't that usually used for matrices?). If we're going to have this, I personally would like the `bra-ket` names (https://en.wikipedia.org/wiki/Bra–ket_notation). This should be discussed on Zulip though.

**Comment by themathqueen** [comment]
awaiting-author

**Comment by themathqueen** [comment]
To add on my comment:
- Whatever the name is, I think the def (or abbrev) should be `outerProduct x y := (lsmul 𝕜 𝕜).flip x ∘L innerSL 𝕜 y`.
- And this should be defined as `E →L[𝕜] F →L⋆[𝕜] F →L[𝕜] E` and then you can remove all the `_add_left`, `_smul_left`, etc.
- Then with #27845, you should be able to prove `adjoint (outerProduct x y)` pretty straightforwardly (with `CompleteSpace` and without `FiniteDimensional`).
- And then adding lemmas for `outerProduct x y ∘L f = outerProduct x (adjoint f y)` and `f ∘L outerProduct x y = outerProduct (f x) y` (again, this should follow directly from #27845)

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 8]
```diff
@@ -0,0 +1,165 @@
...
+lemma isSelfAdjoint_outerProduct_add (x y : E) :
+    IsSelfAdjoint (outerProduct 𝕜 x y + outerProduct 𝕜 y x) := by
+  rw [isSelfAdjoint_iff', map_add]
+  repeat rw [adjoint_outerProduct]
+  abel
+
+lemma isSymmetric_outerProduct_add (x y : E) :
+    (outerProduct 𝕜 x y + outerProduct 𝕜 y x).IsSymmetric :=
+  (outerProduct 𝕜 x y + outerProduct 𝕜 y x).isSymmetric_iff_isSelfAdjoint.mpr
+    (isSelfAdjoint_outerProduct_add 𝕜 x y)
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: this is just [IsSelfAdjoint.add_star_self](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Star/SelfAdjoint.html#IsSelfAdjoint.add_star_self)

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 9]
```diff
@@ -0,0 +1,165 @@
...
+def outerProduct (x : E) (y : F) : F →ₗ[𝕜] E where
+  toFun := fun z ↦ inner 𝕜 y z • x
+  map_add' z w := by
+    rw [← Module.add_smul, inner_add_right y z w]
+  map_smul' m z := by
+    rw [RingHom.id_apply, inner_smul_right_eq_smul y z m]
+    exact IsScalarTower.smul_assoc m (inner 𝕜 y z) x
+
+lemma outerProduct_def (x : E) (y : F) (z : F) :
+    outerProduct 𝕜 x y z = inner 𝕜 y z • x := rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: Here's one way to do it for now:
```suggestion
variable {𝕜 V W : Type*} [RCLike 𝕜] [SeminormedAddCommGroup V] [InnerProductSpace 𝕜 V]
  [SeminormedAddCommGroup W] [InnerProductSpace 𝕜 W]

open ContinuousLinearMap

variable (𝕜) in
/-- A rank-one operator on an inner product space is given by `x ↦ y ↦ z ↦ ⟪y, z⟫ • x`. -/
noncomputable def rankOne : V →L[𝕜] W →L⋆[𝕜] W →L[𝕜] V :=
  LinearMap.mkContinuous₂
  ({toFun := fun x =>
    { toFun := fun y => (lsmul 𝕜 𝕜).flip x ∘L innerSL 𝕜 y
      map_add' := fun _ _ => by rw [map_add, comp_add]
      map_smul' := fun _ _ => by rw [map_smulₛₗ, comp_smulₛₗ]; rfl }
    map_add' := fun _ _ => by ext; simp
    map_smul' := fun _ _ => by ext; simp })
  1 (fun x y => calc _ ≤ _ := opNorm_comp_le _ _
      _ ≤ ‖x‖ * ‖y‖ := mul_le_mul (opNorm_le_bound _ (norm_nonneg x)
          (by simp [norm_smul, mul_comm]))
        (innerSL_apply_norm 𝕜 y ▸ le_refl _) (norm_nonneg _) (norm_nonneg _)
      _ = _ := by rw [one_mul])

lemma rankOne_def (x : V) (y : W) :
    rankOne 𝕜 x y = (lsmul 𝕜 𝕜).flip x ∘L innerSL 𝕜 y :=
  rfl

lemma rankOne_def' (x : V) (y : W) :
    rankOne 𝕜 x y = (innerSL 𝕜 y).smulRight x :=
  rfl

@[simp]
lemma rankOne_apply (x : V) (y z : W) :
    rankOne 𝕜 x y z = inner 𝕜 y z • x :=
  rfl
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 10]
```diff
@@ -0,0 +1,163 @@
...
+
+@[simp]
+lemma rankOne_apply (x : V) (y z : W) :
+    rankOne 𝕜 x y z = inner 𝕜 y z • x :=
+  rfl
+
+lemma rankOne_add_left (x : V) (y : V) (z : W) :
+    rankOne 𝕜 (x + y) z = rankOne 𝕜 x z + rankOne 𝕜 y z := by
+  ext
+  simp [add_apply]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: This is `map_add₂` now.
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 11]
```diff
@@ -0,0 +1,163 @@
...
+
+lemma rankOne_add_right (x : V) (y : W) (z : W) :
+    rankOne 𝕜 x (y + z) = rankOne 𝕜 x y + rankOne 𝕜 x z := by
+  ext
+  simp [add_apply]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: This is `map_add`.
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 12]
```diff
@@ -0,0 +1,163 @@
...
+
+lemma rankOne_sub_left (x : W) (y : W) (z : V) :
+    rankOne 𝕜 (x - y) z = rankOne 𝕜 x z - rankOne 𝕜 y z := by
+  ext
+  simp [sub_apply]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: This is `map_sub₂`.
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 13]
```diff
@@ -0,0 +1,163 @@
...
+
+lemma rankOne_sub_right (x : V) (y : W) (z : W) :
+    rankOne 𝕜 x (y - z) = rankOne 𝕜 x y - rankOne 𝕜 x z := by
+  ext
+  simp [sub_apply]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: This is `map_sub`.
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 14]
```diff
@@ -0,0 +1,163 @@
...
+
+lemma rankOne_smul_left (c : 𝕜) (x : V) (y : W) :
+    rankOne 𝕜 (c • x) y = (c : 𝕜) • rankOne 𝕜 x y := by
+  ext
+  simp only [smul_apply, rankOne_apply]
+  rw [smul_algebra_smul_comm]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: this is `map_smulₛₗ₂`
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 15]
```diff
@@ -0,0 +1,163 @@
...
+
+lemma rankOne_smul_right (c : 𝕜) (x : V) (y : W) :
+    rankOne 𝕜 x (c • y) = starRingEnd 𝕜 c • rankOne 𝕜 x y := by
+  ext
+  simp only [smul_apply, rankOne_apply]
+  rw [starRingEnd_apply, smul_algebra_smul_comm, inner_smul_left, starRingEnd_apply, mul_smul]
+  simp only [RCLike.star_def]
+  rw [smul_algebra_smul_comm]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: this is `map_smulₛₗ`
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 16]
```diff
@@ -0,0 +1,163 @@
...
+lemma rankOne_comp_rankOne_eq_inner_smul_rankOne (x : V) (y z : W) (w : V) :
+    rankOne 𝕜 x y ∘L rankOne 𝕜 z w = inner 𝕜 y z • rankOne 𝕜 x w := by
+  ext v
+  simp only [comp_apply, rankOne_apply, map_smul, smul_apply]
+  rw [smul_algebra_smul_comm]
+
+lemma rankOne_mul_rankOne_eq_inner_smul_rankOne (x y z w : V) :
+    rankOne 𝕜 x y * rankOne 𝕜 z w = inner 𝕜 y z • rankOne 𝕜 x w := by
+  rw [mul_def]
+  exact rankOne_comp_rankOne_eq_inner_smul_rankOne x y z w
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: unnecessary now because of the above
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 17]
```diff
@@ -0,0 +1,163 @@
...
+variable [InnerProductSpace 𝕜 V] [InnerProductSpace 𝕜 W] [CompleteSpace V] [CompleteSpace W]
+
+lemma adjoint_rankOne (x : V) (y : W) :
+    (rankOne 𝕜 x y).adjoint = rankOne 𝕜 y x := by
+  symm
+  rw [eq_adjoint_iff]
+  intro v w
+  repeat rw [rankOne_apply]
+  rw [inner_smul_left, inner_conj_symm, inner_smul_right]
+  exact mul_comm _ _
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
  simp [rankOne_def, adjoint_comp, ← adjoint_innerSL_apply]
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 18]
```diff
@@ -0,0 +1,163 @@
...
+
+lemma star_rankOne (x y : V) :
+    star (rankOne 𝕜 x y) = rankOne 𝕜 y x := by
+  rw [star_eq_adjoint, adjoint_rankOne]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: unnecessary because you have the above
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 19]
```diff
@@ -0,0 +1,163 @@
...
+
+lemma isStarProjection_rankOne_self_of_norm_eq_one {x : V} (h : ‖x‖ = 1) :
+    IsStarProjection (rankOne 𝕜 x x) :=
+  ⟨isIdempotentElem_rankOne_self_of_norm_eq_one h, isSelfAdjoint_rankOne_self x⟩
+
+lemma isSelfAdjoint_rankOne_add (x y : V) :
+    IsSelfAdjoint (rankOne 𝕜 x y + rankOne 𝕜 y x) := by
+  rw [isSelfAdjoint_iff', map_add]
+  repeat rw [adjoint_rankOne]
+  abel
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
    IsSelfAdjoint (rankOne 𝕜 x y + rankOne 𝕜 y x) :=
  (adjoint_rankOne (𝕜 := 𝕜) y x) ▸ IsSelfAdjoint.star_add_self _
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean (hunk 18 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: what I mean by this is that you can easily transition from one to the other, you don't need to have a more specialized version of the lemma

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 20]
```diff
@@ -0,0 +1,144 @@
...
+
+/-!
+This file defines the outer product of two vectors as a linear map,
+and proves basic properties of the outer product.
+-/
+
+namespace ContinuousLinearMap
+
+section seminormed
+
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 21]
```diff
@@ -0,0 +1,144 @@
...
+lemma rankOne_def' (x : V) (y : W) :
+    rankOne 𝕜 x y = (innerSL 𝕜 y).smulRight x :=
+  rfl
+
+@[simp]
+lemma rankOne_apply (x : V) (y z : W) :
+    rankOne 𝕜 x y z = inner 𝕜 y z • x :=
+  rfl
+
+lemma inner_rankOne_eq_inner_mul_inner (x : V) (y z : W) (w : V) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
lemma inner_left_rankOne_apply (x : V) (y z : W) (w : V) :
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 22]
```diff
@@ -0,0 +1,144 @@
...
+    inner 𝕜 (rankOne 𝕜 x y z) w = inner 𝕜 z y * inner 𝕜 x w := by
+  simp [inner_smul_left, inner_conj_symm]
+
+lemma rankOne_comp_rankOne_eq_inner_smul_rankOne (x : V) (y z : W) (w : V) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
lemma rankOne_comp_rankOne (x : V) (y z : W) (w : V) :
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 23]
```diff
@@ -0,0 +1,144 @@
...
+    rankOne 𝕜 x y ∘L rankOne 𝕜 z w = inner 𝕜 y z • rankOne 𝕜 x w := by
+  ext v
+  simp only [comp_apply, rankOne_apply, map_smul, smul_apply]
+  rw [smul_algebra_smul_comm]
+
+lemma isIdempotentElem_rankOne_self_of_norm_eq_one {x : V} (h : ‖x‖ = 1) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
lemma isIdempotentElem_rankOne_self {x : V} (h : ‖x‖ = 1) :
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 24]
```diff
@@ -0,0 +1,144 @@
...
+    IsIdempotentElem (rankOne 𝕜 x x) := by
+  ext y
+  rw [mul_def]
+  simp [Function.comp_apply, rankOne_def, inner_smul_right, inner_self_eq_norm_sq_to_K, h]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
  simp [IsIdempotentElem, mul_def, rankOne_comp_rankOne, inner_self_eq_norm_sq_to_K, h]
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 25]
```diff
@@ -0,0 +1,144 @@
...
+
+@[simp]
+lemma rankOne_toLinearMap_apply (x : V) (y z : W) :
+    (rankOne 𝕜 x y).toLinearMap z = inner 𝕜 y z • x :=
+  rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 26]
```diff
@@ -0,0 +1,144 @@
...
+variable [NormedAddCommGroup V] [NormedAddCommGroup W]
+variable [InnerProductSpace 𝕜 V] [InnerProductSpace 𝕜 W] [CompleteSpace V] [CompleteSpace W]
+
+lemma adjoint_rankOne (x : V) (y : W) :
+    (rankOne 𝕜 x y).adjoint = rankOne 𝕜 y x := by
+  simp [rankOne_def, adjoint_comp, ← adjoint_innerSL_apply]
+
+lemma isSelfAdjoint_rankOne_self (x : V) :
+    IsSelfAdjoint (rankOne 𝕜 x x) := by
+  rw [IsSelfAdjoint, star_eq_adjoint, adjoint_rankOne]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
    IsSelfAdjoint (rankOne 𝕜 x x) :=
  adjoint_rankOne _ _
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 27]
```diff
@@ -0,0 +1,144 @@
...
+
+lemma isPositive_rankOne_self (x : V) :
+    (rankOne 𝕜 x x).IsPositive := by
+  apply And.intro (isSelfAdjoint_rankOne_self x)
+  intro y
+  simp only [reApplyInnerSelf, rankOne_apply]
+  rw [inner_smul_left, InnerProductSpace.conj_inner_symm, inner_mul_symm_re_eq_norm]
+  exact norm_nonneg (inner 𝕜 y x * inner 𝕜 x y)
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
  rw [rankOne_def, ← id_comp (innerSL 𝕜 x), ← adjoint_innerSL_apply]
  exact IsPositive.adjoint_conj isPositive_one _
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 28]
```diff
@@ -0,0 +1,144 @@
...
+
+lemma isStarProjection_rankOne_self_of_norm_eq_one {x : V} (h : ‖x‖ = 1) :
+    IsStarProjection (rankOne 𝕜 x x) :=
+  ⟨isIdempotentElem_rankOne_self_of_norm_eq_one h, isSelfAdjoint_rankOne_self x⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
  ⟨isIdempotentElem_rankOne_self h, isSelfAdjoint_rankOne_self x⟩
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 29]
```diff
@@ -0,0 +1,144 @@
...
+
+lemma isPositive_rankOne_self (x : V) :
+    (rankOne 𝕜 x x).IsPositive := by
+  apply And.intro (isSelfAdjoint_rankOne_self x)
+  intro y
+  simp only [reApplyInnerSelf, rankOne_apply]
+  rw [inner_smul_left, InnerProductSpace.conj_inner_symm, inner_mul_symm_re_eq_norm]
+  exact norm_nonneg (inner 𝕜 y x * inner 𝕜 x y)
+
+lemma isStarProjection_rankOne_self_of_norm_eq_one {x : V} (h : ‖x‖ = 1) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
lemma isStarProjection_rankOne_self {x : V} (h : ‖x‖ = 1) :
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 30]
```diff
@@ -0,0 +1,144 @@
...
+lemma isSelfAdjoint_rankOne_add (x y : V) :
+    IsSelfAdjoint (rankOne 𝕜 x y + rankOne 𝕜 y x) :=
+  (adjoint_rankOne (𝕜 := 𝕜) y x) ▸ IsSelfAdjoint.star_add_self _
+
+omit [CompleteSpace V]
+
+lemma rankOne_comp (x : V) (y : W) (f : W →L[𝕜] W) :
+    rankOne 𝕜 x y ∘L f = rankOne 𝕜 x (adjoint f y) := by
+  ext z
+  simp [adjoint_inner_left]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
  simp_rw [rankOne_def, comp_assoc, innerSL_apply_comp]
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 31]
```diff
@@ -0,0 +1,144 @@
...
+
+omit [CompleteSpace W]
+
+lemma comp_rankOne (x : V) (y : W) (f : V →L[𝕜] V) :
+    f ∘L rankOne 𝕜 x y = rankOne 𝕜 (f x) y := by
+  ext z
+  simp
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
  simp_rw [rankOne_def, ← comp_assoc, comp_lsmul_flip_apply]
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 32]
```diff
@@ -0,0 +1,144 @@
...
+
+lemma trace_toLinearMap_rankOne (x y : V) (b : OrthonormalBasis ι 𝕜 V) :
+    (rankOne 𝕜 x y).toLinearMap.trace 𝕜 V = inner 𝕜 y x := by
+  rw [(rankOne 𝕜 x y).trace_eq_sum_inner b]
+  simp +contextual [rankOne_toLinearMap_apply, inner_smul_right]
+  have : ∀i, inner 𝕜 y (b i) * inner 𝕜 (b i) x = inner 𝕜 (b i) x * inner 𝕜 y (b i) := by
+    intro i
+    apply mul_comm
+  simp +contextual [this, ← inner_smul_right, ← rankOne_apply]
+  rw [← inner_sum, ← sum_apply, sum_rankOne_OrthonormalBasis b, one_apply]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion

lemma trace_toLinearMap_rankOne (x y : V) (b : Module.Basis ι 𝕜 V) :
    (rankOne 𝕜 x y).trace 𝕜 V = inner 𝕜 y x := by
  have : Module.Finite 𝕜 V := Module.Finite.of_basis b
  rw [rankOne_def, coe_comp, LinearMap.trace_comp_comm', ← coe_comp, comp_lsmul_flip_apply]
  simp [LinearMap.trace_eq_sum_inner _ ((Module.Basis.singleton Unit 𝕜).toOrthonormalBasis
    (by simp [orthonormal_iff_ite]))]
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 33]
```diff
@@ -0,0 +1,144 @@
...
+
+lemma comp_rankOne (x : V) (y : W) (f : V →L[𝕜] V) :
+    f ∘L rankOne 𝕜 x y = rankOne 𝕜 (f x) y := by
+  ext z
+  simp
+
+variable {ι : Type*} [Fintype ι]
+
+lemma sum_rankOne_OrthonormalBasis (b : OrthonormalBasis ι 𝕜 V) :
+    ∑i, rankOne 𝕜 (b i) (b i) = 1 := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
    ∑ i, rankOne 𝕜 (b i) (b i) = 1 := by
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 34]
```diff
@@ -0,0 +1,144 @@
...
+  ext x
+  rw [← LinearIsometryEquiv.map_eq_iff b.repr]
+  simp only [sum_apply, rankOne_apply, one_apply]
+  congr
+  exact b.sum_repr' x
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]:
```suggestion
  simp only [sum_apply, rankOne_apply, one_apply, b.sum_repr' x]
```

**Review by themathqueen — CHANGES_REQUESTED** [review]

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 35]
```diff
@@ -0,0 +1,123 @@
...
+
+lemma isStarProjection_rankOne_self {x : V} (h : ‖x‖ = 1) :
+    IsStarProjection (rankOne 𝕜 x x) :=
+  ⟨isIdempotentElem_rankOne_self h, isSelfAdjoint_rankOne_self x⟩
+
+lemma isSelfAdjoint_rankOne_add (x y : V) :
+    IsSelfAdjoint (rankOne 𝕜 x y + rankOne 𝕜 y x) :=
+  (adjoint_rankOne (𝕜 := 𝕜) y x) ▸ IsSelfAdjoint.star_add_self _
+
+omit [CompleteSpace V]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: We only allow `omit` to be used before theorems like: `omit xyz in`.
I'd suggest that you section off the things that use `CompleteSpace`.

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 36]
```diff
@@ -0,0 +1,126 @@
...
+lemma rankOne_def' (x : V) (y : W) :
+    rankOne 𝕜 x y = (innerSL 𝕜 y).smulRight x :=
+  rfl
+
+@[simp]
+lemma rankOne_apply (x : V) (y z : W) :
+    rankOne 𝕜 x y z = inner 𝕜 y z • x :=
+  rfl
+
+lemma inner_left_rankOne_apply (x : V) (y z : W) (w : V) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: can you also add `inner_right_rankOne_apply`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 37]
```diff
@@ -0,0 +1,126 @@
...
+lemma rankOne_comp_rankOne (x : V) (y z : W) (w : V) :
+    rankOne 𝕜 x y ∘L rankOne 𝕜 z w = inner 𝕜 y z • rankOne 𝕜 x w := by
+  ext v
+  simp only [comp_apply, rankOne_apply, map_smul, smul_apply]
+  rw [smul_algebra_smul_comm]
+
+lemma isIdempotentElem_rankOne_self {x : V} (h : ‖x‖ = 1) :
+    IsIdempotentElem (rankOne 𝕜 x x) := by
+  simp [IsIdempotentElem, mul_def, rankOne_comp_rankOne, inner_self_eq_norm_sq_to_K, h]
+
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: I think all this should be moved to `Analysis/InnerProductSpace/LinearMap`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 38]
```diff
@@ -0,0 +1,126 @@
...
+variable [CompleteSpace V] [CompleteSpace W]
+
+lemma adjoint_rankOne (x : V) (y : W) :
+    (rankOne 𝕜 x y).adjoint = rankOne 𝕜 y x := by
+  simp [rankOne_def, adjoint_comp, ← adjoint_innerSL_apply]
+
+lemma isSelfAdjoint_rankOne_self (x : V) :
+    IsSelfAdjoint (rankOne 𝕜 x x) :=
+  adjoint_rankOne x x
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: move to `Analysis/InnerProductSpace/Adjoint` below `adjoint_innerSL_apply`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 39]
```diff
@@ -0,0 +1,126 @@
...
+
+lemma isPositive_rankOne_self (x : V) :
+    (rankOne 𝕜 x x).IsPositive := by
+  rw [rankOne_def, ← id_comp (innerSL 𝕜 x), ← adjoint_innerSL_apply]
+  exact IsPositive.adjoint_conj isPositive_one _
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: `Analysis/InnerProductSpace/Positive`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 40]
```diff
@@ -0,0 +1,126 @@
...
+  ⟨isIdempotentElem_rankOne_self h, isSelfAdjoint_rankOne_self x⟩
+
+lemma isSelfAdjoint_rankOne_add (x y : V) :
+    IsSelfAdjoint (rankOne 𝕜 x y + rankOne 𝕜 y x) :=
+  (adjoint_rankOne (𝕜 := 𝕜) y x) ▸ IsSelfAdjoint.star_add_self _
+
+omit [CompleteSpace V] in
+lemma rankOne_comp (x : V) (y : W) (f : W →L[𝕜] W) :
+    rankOne 𝕜 x y ∘L f = rankOne 𝕜 x (adjoint f y) := by
+  simp_rw [rankOne_def, comp_assoc, innerSL_apply_comp]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: `Analysis/InnerProductSpace/Adjoint` below `innerSL_apply_comp`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 41]
```diff
@@ -0,0 +1,126 @@
...
+
+end complete
+
+lemma comp_rankOne (x : V) (y : W) (f : V →L[𝕜] V) :
+    f ∘L rankOne 𝕜 x y = rankOne 𝕜 (f x) y := by
+  simp_rw [rankOne_def, ← comp_assoc, comp_lsmul_flip_apply]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: `Analysis/InnerProductSpace/LinearMap`

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 42]
```diff
@@ -0,0 +1,126 @@
...
+    ∑ i, rankOne 𝕜 (b i) (b i) = 1 := by
+  ext x
+  simp only [sum_apply, rankOne_apply, one_apply, b.sum_repr' x]
+
+lemma trace_toLinearMap_rankOne (x y : V) (b : Module.Basis ι 𝕜 V) :
+    (rankOne 𝕜 x y).trace 𝕜 V = inner 𝕜 y x := by
+  have : Module.Finite 𝕜 V := Module.Finite.of_basis b
+  rw [rankOne_def, coe_comp, LinearMap.trace_comp_comm', ← coe_comp, comp_lsmul_flip_apply]
+  simp [LinearMap.trace_eq_sum_inner _ ((Module.Basis.singleton Unit 𝕜).toOrthonormalBasis
+    (by simp [orthonormal_iff_ite]))]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: idk. `Analysis/InnerProductSpace/PiL2` or something?

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 43]
```diff
@@ -0,0 +1,150 @@
...
+This file defines the outer product of two vectors as a linear map,
+and proves basic properties of the outer product.
+-/
+
+namespace ContinuousLinearMap
+
+section seminormed
+
+variable {𝕜 V W : Type*} [RCLike 𝕜]
+variable [SeminormedAddCommGroup V] [InnerProductSpace 𝕜 V]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: btw, you can weaken this to just a normed space instead of an inner product space:
```suggestion
variable [SeminormedAddCommGroup V] [NormedSpace 𝕜 V]
```

File: Mathlib/Analysis/InnerProductSpace/OuterProduct.lean [hunk 44]
```diff
@@ -0,0 +1,150 @@
...
+variable [SeminormedAddCommGroup W] [InnerProductSpace 𝕜 W]
+
+variable (𝕜) in
+/-- A rank-one operator on an inner product space is given by `x ↦ y ↦ z ↦ ⟪y, z⟫ • x`. -/
+noncomputable def rankOne : V →L[𝕜] W →L⋆[𝕜] W →L[𝕜] V :=
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/OuterProduct.lean]: Also I don't know about having this in the `ContinuousLinearMap` namespace since `ContinuousLinearMap.smulRight f x` is a continuous linear map and of rank one.

How about `InnerProductSpace.rankOne`?

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 45]
```diff
@@ -261,6 +261,23 @@ theorem innerSL_apply_comp_of_isSymmetric (x : E) {f : E →L[𝕜] E} (hf : f.I
...
+lemma _root_.InnerProductSpace.adjoint_rankOne (x : E) (y : F) :
+    (rankOne 𝕜 x y).adjoint = rankOne 𝕜 y x := by
+  simp [rankOne_def, adjoint_comp, ← adjoint_innerSL_apply]
+
+lemma _root_.InnerProductSpace.isSelfAdjoint_rankOne_self (x : E) :
+    IsSelfAdjoint (rankOne 𝕜 x x) :=
+  adjoint_rankOne x x
+
+omit [CompleteSpace E] in
+lemma _root_.InnerProductSpace.rankOne_comp (x : E) (y : F) (f : F →L[𝕜] F) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]:
```suggestion
lemma _root_.InnerProductSpace.rankOne_comp {G : Type*}
    [NormedAddCommGroup G] [InnerProductSpace 𝕜 G] [CompleteSpace G]
    (x : E) (y : F) (f : G →L[𝕜] F) :
```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 46]
```diff
@@ -261,6 +261,23 @@ theorem innerSL_apply_comp_of_isSymmetric (x : E) {f : E →L[𝕜] E} (hf : f.I
...
+    rankOne 𝕜 x y ∘L f = rankOne 𝕜 x (adjoint f y) := by
+  simp_rw [rankOne_def, comp_assoc, innerSL_apply_comp]
+
+lemma _root_.InnerProductSpace.isSelfAdjoint_rankOne_add (x y : E) :
+    IsSelfAdjoint (rankOne 𝕜 x y + rankOne 𝕜 y x) :=
+  (adjoint_rankOne (𝕜 := 𝕜) y x) ▸ IsSelfAdjoint.star_add_self _
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: Why do you want this? I don't see the point of having a separate result for this.

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 47]
```diff
@@ -306,3 +308,101 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+lemma rankOne_def' (x : E) (y : F) :
+    rankOne 𝕜 x y = (innerSL 𝕜 y).smulRight x :=
+  rfl
+
+@[simp]
+lemma rankOne_apply (x : E) (y z : F) :
+    rankOne 𝕜 x y z = inner 𝕜 y z • x :=
+  rfl
+
+lemma comp_rankOne (x : E) (y : F) (f : E →L[𝕜] E) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]:
```suggestion
lemma comp_rankOne {G : Type*} [SeminormedAddCommGroup G]
    [NormedSpace 𝕜 G] (x : E) (y : F) (f : E →L[𝕜] G) :
```

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 48]
```diff
@@ -306,3 +308,101 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+
+lemma inner_left_rankOne_apply (x : E) (y z : F) (w : E) :
+    inner 𝕜 (rankOne 𝕜 x y z) w = inner 𝕜 z y * inner 𝕜 x w := by
+  simp [inner_smul_left, inner_conj_symm]
+
+lemma inner_right_rankOne_apply (x y : E) (z w : F) :
+    inner 𝕜 x (rankOne 𝕜 y z w) = inner 𝕜 x y * inner 𝕜 z w := by
+  simp [inner_smul_right, mul_comm]
+
+lemma rankOne_comp_rankOne (x : E) (y z : F) (w : E) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]:
```suggestion
lemma rankOne_comp_rankOne {G : Type*} [SeminormedAddCommGroup G]
    [InnerProductSpace 𝕜 G] (x : E) (y z : F) (w : G) :
```

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 49]
```diff
@@ -306,3 +308,101 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+    rankOne 𝕜 x y ∘L rankOne 𝕜 z w = inner 𝕜 y z • rankOne 𝕜 x w := by
+  ext v
+  simp only [comp_apply, rankOne_apply, map_smul, ContinuousLinearMap.smul_apply]
+  rw [smul_algebra_smul_comm]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]:
```suggestion
  simp [comp_rankOne]
```

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 50]
```diff
@@ -306,3 +308,101 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+  · intro hz
+    obtain ⟨w, hw⟩ := LinearMap.mem_range.mp hz
+    rw [rankOne_apply] at hw
+    rw [Submodule.mem_span_singleton]
+    use inner 𝕜 y w
+  · intro hz
+    obtain ⟨c, hc⟩ := Submodule.mem_span_singleton.mp hz
+    rw [LinearMap.mem_range]
+    use (c / inner 𝕜 y y) • y
+    rw [rankOne_apply, inner_smul_right, ← hc, div_mul_cancel₀ c (inner_self_ne_zero.mpr hy)]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]: with #28350, you can do:
```suggestion
  exact range_smulRight_apply (map_eq_zero_iff _
    (InnerProductSpace.toDualMap 𝕜 F).injective |>.not.mpr hy) _
```

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 51]
```diff
@@ -306,3 +308,101 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+
+lemma rank_range_rankOne {x : E} {y : F} (hx : x ≠ 0) (hy : y ≠ 0) :
+    Module.rank 𝕜 (LinearMap.range (rankOne 𝕜 x y)) = 1 := by
+  rw [range_rankOne x hy, Module.rank_eq_one_iff_finrank_eq_one]
+  exact finrank_span_singleton hx
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]: probably move this somewhere else so that you don't need to import finite dimensionality here?

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 52]
```diff
@@ -306,3 +308,101 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+    { toFun := fun y => (lsmul 𝕜 𝕜).flip x ∘L innerSL 𝕜 y
+      map_add' := fun _ _ => by rw [map_add, comp_add]
+      map_smul' := fun _ _ => by rw [map_smulₛₗ, comp_smulₛₗ]; rfl }
+    map_add' := fun _ _ => by ext; simp
+    map_smul' := fun _ _ => by ext; simp })
+  1 (fun x y => calc _ ≤ _ := opNorm_comp_le _ _
+      _ ≤ ‖x‖ * ‖y‖ := mul_le_mul (opNorm_le_bound _ (norm_nonneg x)
+          (by simp [norm_smul, mul_comm]))
+        (innerSL_apply_norm 𝕜 y ▸ le_refl _) (norm_nonneg _) (norm_nonneg _)
+      _ = _ := by rw [one_mul])
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]:
```suggestion
  1 (fun x y => le_of_eq <| one_mul ‖x‖ ▸ mul_comm ‖x‖ ‖y‖ ▸
    innerSL_apply_norm 𝕜 y ▸ norm_smulRight_apply (innerSL 𝕜 y) x)
```

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 53]
```diff
@@ -306,3 +308,101 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+
+lemma rankOne_def (x : E) (y : F) :
+    rankOne 𝕜 x y = (lsmul 𝕜 𝕜).flip x ∘L innerSL 𝕜 y :=
+  rfl
+
+lemma rankOne_def' (x : E) (y : F) :
+    rankOne 𝕜 x y = (innerSL 𝕜 y).smulRight x :=
+  rfl
+
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean:349]:
```suggestion

theorem norm_rankOne (x : E) (y : F) :
    ‖rankOne 𝕜 x y‖ = ‖x‖ * ‖y‖ :=
  mul_comm ‖x‖ ‖y‖ ▸ innerSL_apply_norm 𝕜 y ▸ norm_smulRight_apply _ x

```

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean (hunk 46 above)
Comment (IvanRenison) [reply Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: I simply thought that it can be useful, it is a true theorem that it is not completely trivial to probe, you think it is not good to have it?

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean (hunk 51 above)
Comment (IvanRenison) [reply Mathlib/Analysis/InnerProductSpace/LinearMap.lean]: Where should I move it?

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean (hunk 50 above)
Comment (IvanRenison) [reply Mathlib/Analysis/InnerProductSpace/LinearMap.lean]: I think `InnerProductSpace.toDualMap` can not imported in this file

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/LinearMap.lean]: move it to another file

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean (hunk 51 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/LinearMap.lean]: maybe along with the trace ones for now?

**Comment by themathqueen** [comment]
If you want, with #28344, you can add what the matrix form of this is:
```lean
variable {𝕜 E E₂ ι ι₂ : Type*} [RCLike 𝕜] [SeminormedAddCommGroup E] [NormedSpace 𝕜 E] [Fintype ι]
  [NormedAddCommGroup E₂] [InnerProductSpace 𝕜 E₂] [Fintype ι₂] [DecidableEq ι] [DecidableEq ι₂]

theorem rankOne_toMatrix (x : E) (y : E₂) (b₁ : Module.Basis ι 𝕜 E) (b₂ : OrthonormalBasis ι₂ 𝕜 E₂) :
    (rankOne 𝕜 x y).toMatrix b₂.toBasis b₁ = Matrix.vecMulVec (b₁.repr x) (star (b₂.repr y)) := by
  simp [rankOne_def, LinearMap.toMatrix_comp _ (Module.Basis.singleton Unit 𝕜),
    lsmul_flip_apply_toMatrix, innerSL_apply_toMatrix, vecMulVec_eq Unit]
```

File: Mathlib/Analysis/InnerProductSpace/Trace.lean [hunk 54]
```diff
@@ -47,3 +47,24 @@ lemma IsSymmetric.re_trace_eq_sum_eigenvalues {T : E →ₗ[𝕜] E} (hT : T.IsS
...
+  ext x
+  simp only [ContinuousLinearMap.sum_apply, InnerProductSpace.rankOne_apply, one_apply,
+    b.sum_repr' x]
+
+lemma trace_toLinearMap_rankOne (x y : E) (b : Module.Basis ι 𝕜 E) :
+    (InnerProductSpace.rankOne 𝕜 x y).trace 𝕜 E = inner 𝕜 y x := by
+  have : Module.Finite 𝕜 E := Module.Finite.of_basis b
+  rw [rankOne_def, coe_comp, LinearMap.trace_comp_comm', ← coe_comp, comp_lsmul_flip_apply]
+  simp [LinearMap.trace_eq_sum_inner _ ((Module.Basis.singleton Unit 𝕜).toOrthonormalBasis
+    (by simp [orthonormal_iff_ite]))]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Trace.lean:72]: after merging master, this should work btw:
```suggestion
  simp [LinearMap.trace_eq_sum_inner _ (OrthonormalBasis.singleton Unit 𝕜)]
```

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 55]
```diff
@@ -306,3 +306,75 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+variable (𝕜) in
+/-- A rank-one operator on an inner product space is given by `x ↦ y ↦ z ↦ ⟪y, z⟫ • x`. -/
+noncomputable def rankOne : E →L[𝕜] F →L⋆[𝕜] F →L[𝕜] E :=
+  LinearMap.mkContinuous₂
+  ({toFun := fun x =>
+    { toFun := fun y => (lsmul 𝕜 𝕜).flip x ∘L innerSL 𝕜 y
+      map_add' := fun _ _ => by rw [map_add, comp_add]
+      map_smul' := fun _ _ => by rw [map_smulₛₗ, comp_smulₛₗ]; rfl }
+    map_add' := fun _ _ => by ext; simp
+    map_smul' := fun _ _ => by ext; simp })
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]:
```suggestion
  ({toFun x :=
    { toFun y := toSpanSingleton 𝕜 x ∘L innerSL 𝕜 y
      map_add' _ _ := by rw [map_add, comp_add]
      map_smul' _ _ := by rw [map_smulₛₗ, comp_smulₛₗ]; rfl }
    map_add' _ _ := by ext; simp [toSpanSingleton_add]
    map_smul' _ _ := by ext; simp [toSpanSingleton_smul] })
```

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 56]
```diff
@@ -306,3 +306,75 @@ theorem ContinuousLinearMap.reApplyInnerSelf_smul (T : E →L[𝕜] E) (x : E) {
...
+  1 (fun x y => le_of_eq <| one_mul ‖x‖ ▸ mul_comm ‖x‖ ‖y‖ ▸
+    innerSL_apply_norm 𝕜 y ▸ norm_smulRight_apply (innerSL 𝕜 y) x)
+
+lemma rankOne_def (x : E) (y : F) :
+    rankOne 𝕜 x y = (lsmul 𝕜 𝕜).flip x ∘L innerSL 𝕜 y :=
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean]:
```suggestion
    rankOne 𝕜 x y = toSpanSingleton 𝕜 x ∘L innerSL 𝕜 y :=
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 57]
```diff
@@ -1209,3 +1209,17 @@ theorem toMatrix_innerSL_apply [Fintype n] [DecidableEq n] [Fintype m]
...
+
+variable {𝕜 E F ι ι' : Type*} [RCLike 𝕜]
+variable [SeminormedAddCommGroup E] [NormedSpace 𝕜 E]
+variable [NormedAddCommGroup F] [InnerProductSpace 𝕜 F]
+variable [Fintype ι] [Fintype ι'] [DecidableEq ι']
+
+theorem rankOne_toMatrix (x : E) (y : F) (b : Module.Basis ι 𝕜 E) (b' : OrthonormalBasis ι' 𝕜 F) :
+    (rankOne 𝕜 x y).toMatrix b'.toBasis b = Matrix.vecMulVec (b.repr x) (star (b'.repr y)) := by
+  simp [rankOne_def, LinearMap.toMatrix_comp _ (Module.Basis.singleton Unit 𝕜),
+    ContinuousLinearMap.lsmul_flip_apply_toMatrix, innerSL_apply_toMatrix, Matrix.vecMulVec_eq Unit]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]: proof of this should change too

**Comment by j-loreaux** [comment]
@themathqueen I'm not convinced about taking a map `f : M₂ →ₛₗ[σ] Dual R M₂`; mapping a space into its own dual isn't something that done too often. I think the type signature should be `LinearMap.rankOne : Dual R M₁ →ₗ[R] M₁ →ₗ[R] M₁` or possibly the `LinearMap.flip` of this. I don't see much need for two different spaces `M₁` and `M₂` (do you?). I'm willing to be persuaded by the increased generality, but I want to see some evidence beyond just "because it's there."

Note that we can just precompose in the one variable with the inner product to still get the version for Hilbert spaces.

It is possible I'm wrong about something I've said here, as I didn't actually try it.
